US07482461B2
Preparation of 5-Iodo-3-(1-methylpiperidin-4-yl)-1H-indazole
A mixture of 4-(2-fluoro-5-iodobenzoyl)-1-methylpiperidine (4.20 g, 12.1 mmol), anhydrous NH2NH2 (30 mL), and DMSO (15 mL) was heated at 100° C. overnight, diluted with ice water and filtered. The filtercake was washed with water and dried in vacuo to provide the title compound (4.1 g, 99%), characterized by HNMR and mass spectral analyses.

reactant | 4-(2-fluoro-5-iodobenzoyl)-1-methylpiperidine | 12.1 mmol, 4.20 g | FC1=C(C(=O)C2CCN(CC2)C)C=C(C=C1)I | C13H15FINO
reactant | NH2NH2 | 30 mL | NN | H4N2
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 5-Iodo-3-(1-methylpiperidin-4-yl)-1H-indazole | 4.1 g, 99% | IC=1C=C2C(=NNC2=CC1)C1CCN(CC1)C | C13H16IN3
